US06506901B2
Step F: 4-[(2S)-Oxiranylmethoxy]-2-oxindole
Prepared from 4-hydroxy-2-oxindole (1.1 g, 7.38 mmol), (S)-glycidyl nosylate (1.91 g, 7.38 mmol) and potassium carbonate (1.1 g, 8 mmol) according to the procedure used for Intermediate 1 to give 0.33 g product as a white solid.

reactant | 4-hydroxy-2-oxindole | 7.38 mmol, 1.1 g | OC1=C2CC(NC2=CC=C1)=O | C8H7NO2
reactant | (S)-glycidyl nosylate | 7.38 mmol, 1.91 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
reactant | potassium carbonate | 8 mmol, 1.1 g | C([O-])([O-])=O.[K+].[K+]
product | 4-[(2S)-Oxiranylmethoxy]-2-oxindole | 0.33 g | O1[C@@H](C1)COC1=C2CC(NC2=CC=C1)=O | C11H11NO3
